US07727988B2
5-(6-methyl-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E40)
To a solution of 3-[5-(6-Methyl-pyridin-3-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-propionaldehyde (Prep59, 90 mg, 0.35 mmol), (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane (Prep4, 71 mg, 0.31 mmol) and AcOH (21 mg, 0.35 mmol) in dichloroethane (2 mL), NaBH(AcO)3 (77 mg, 0.36 mmol) was added portionwise at 0° C. The mixture was stirred at 0° C. for further 45 minutes, then a 1N solution of NaOH was added and the mixture extracted with EtOAc. The organic phase was dried and evaporated, the residue redissolved in DCM and treated with PS-isocyanate resin (400 mg) under stirring for 4 h. After filtration, the solvent was evaporated under vacuum, and the crude was purified by flash chromatography with DCM-MeOH—NH4OH (95-5-0.5) to give the title compound (65 mg, 40% yield) as free base.

reactant | 3-[5-(6-Methyl-pyridin-3-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-propionaldehyde | 0.35 mmol, 90 mg | CC1=CC=C(C=N1)C=1C(NC(N(C1)CCC=O)=O)=O | C13H13N3O3
reactant | (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane | 0.31 mmol, 71 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | AcOH | 0.35 mmol, 21 mg | CC(=O)O | C2H4O2
reactant | NaBH(AcO)3 | 0.36 mmol, 77 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | [OH-].[Na+]
reactant | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
product | 5-(6-methyl-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | 65 mg, 40% yield | Cl.Cl.CC1=CC=C(C=N1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C25H25F3N4O2.2ClH/c1-16-3-4-17(12-29-16)21-14-32(23(34)30-22(21)33)10-2-9-31-13-20-11-24(20,15-31)18-5-7-19(8-6-18)25(26,27)28;;/h3-8,12,14,20H,2,9-11,13,15H2,1H3,(H,30,33,34);2*1H/t20-,24+;;/m0../s1
